US06620811B2
2-Benzyloxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with sodium hydride and benzyl alcohol in dioxane. ES-MS m/e (%): 499 (M+Na+, 40), 477 (M+H+, 100).

reactant | 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | ClC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17ClN4O3S
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Benzyloxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C25H24N4O4S
